2186-01-17 09:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo F mild dementia, with history of pulmonary aspergillosis and
   mycobacterium abscessus, presents with increased cough, HoTN, nausea
   and vomiting.  INitially sentto ED  from [**Hospital **] clinic for these symptoms.
   In ED, afebrile, BP 90s, SaO2 92% had A/P CT, which demonstrated
   possible obstructing gallbladder stone with dilated gallbladder.  CXR
   unchanged, no chest CT.  She was started on linezolid/zosyn/clinda
   given her allergies.  She was seen by surgery and HIDA scan recommended
   for further evaluation of possible cholangitis.
   In MICU hemodynamically stable, afebrile
   Current issues:
    - cholelithiasis with possible cholangitis
    - pulmonary aspergillosis
   24 Hour Events:
   Allergies:
   Quinolones
   Unknown;
   Vancomycin Analogues
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2186-1-17**] 08:00 AM
   Piperacillin - [**2186-1-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-1-17**] 08:13 AM
   Other medications:
   mucomyst
   tylenol
   albuterol
   atorvastatin
   benzonatate
   fent patch (25)
   guafenesin
   hep sq
   keppra
   levothyroxine
   linezolid
   omeprazole
   phenytoin
   zosyn
   pred 5 mg
   senna
   spiriva
   voriconazole 300 [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: reports persistent cough, with post-tussive nausea,
   nonspecific abdominal pain
   Flowsheet Data as of  [**2186-1-17**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 85 (85 - 94) bpm
   BP: 90/39(50) {82/32(44) - 106/42(59)} mmHg
   RR: 14 (10 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,215 mL
   PO:
             TF:
   IVF:
   1,215 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    790 mL
   Urine:
   390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   CHEST: decreased breath sounds RUL, expiratory coarse rhonchi
   diffusely.  Pt w difficulty cooperating with exam
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   154 K/uL
   63 mg/dL
   1.4 mg/dL
   17 mEq/L
   3.6 mEq/L
   25 mg/dL
   115 mEq/L
   144 mEq/L
   27.5 %
   7.2 K/uL
        [image002.jpg]
                             [**2186-1-17**]  05:34 AM
   WBC
   7.2
   Hct
   27.5
   Plt
   154
   Cr
   1.4
   Glucose
   63
   Other labs: Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: Urine [**1-27**] wbc, neg nitrites, no bac
   dilantin 10
   Imaging: Liver ultrasound: distended gb with impacted stone
   CT ab/pelvis wtih distended gb
   CXR
   Assessment and Plan
   80 YO F with history of COPD, pulmonary aspergillosis and
   mycobacterium, here with nausea/vomiting and dyspnea and HoTN
   1. HoTN: improving after 2.5 L: likely [**12-27**] evolving infection and
   dehydration
    - holding baseline narcotics and antihypertensives
    - will continue to bolus IVF to maintain SBP > 100
    - check random cortisol given prednisone (although low dose)
   2. Infection: GI vs pulmonary
    - cont zosyn/linezolid, d/c clinda as aspiration pneumonia less likely
    - f/u HIDA scan
    - chest CT to evaluate possible pulmonary process
    - t/b with ID service
   3. Pulmonary aspergillus:
    - cont voriconazole
   4. [**Last Name (un) **]: fluid responsive with improving creatinine after ivf
    - f/u urine lytes, maintain UOP > 30
   5. Pain:
    - pt on multiple different narcotics, will t/b with PCP regarding
   adequate pain regimen
    - will continue fentanyl patch at 25 and lidoderm patch on back
   6. Hypothyoroid:
    - levothyroxine
   7. HL: statin
   8. HTN: holding antihypertensives
   9. FEN: NPO until decision re procedure is made
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2186-1-17**] 12:56 AM
   22 Gauge - [**2186-1-17**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition : ICU for now until surgical procedure ruled out
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Attending
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 192**]
s note
   including assessment and plan, and would add:
   80 yo female with hx lung CA s/p resection, hx [**Hospital1 **] stent s/p removal,
   aspergillus dx/d [**11-2**] by bronch, untreated Mycobacterium abscessus
   admitted from [**Hospital **] clinic with several weeks of N/V/SOB/relative
   hypotension.  Since arrival, BP
s have been intermittently low
   requiring fluids but not pressors, requiring frequent chest PT due to
   thick tenacious secretions.
   Afebrile, 94% 35% FM
   Frail, elderly female, audibly congested
   Lungs: bil rhonchi, upper airway congestion, fair air mov
   CV: RRR
   Abd: soft, nt+bs
   Ext 1+edema
   WBC 7; HCO3 (AG 12); HIDA scan with delayed entrance into gallbaldder
   but accuracy limited by NPO status
   A/P- 80 yo female with relative hypotension, N/V (post-tussive). Due to
   hypotension need to be concerned abt sepsis- HIDA/abd results equivocal
   but presentation not definitively from GB infxn. [**Month (only) 51**] have pulmonary
   source, or alternatively volume depleted.
   - No plans for intervention (tube) for distended GB
   - Zosyn/linezolid, obtain chest CT to evaluate for pulmonary source of
   sepsis
   - Aggressive chest PT w/nebs, mucinex, humidifcation
   - In ICU dependent on resolution of low BP
s, frequency of chest PT.
   Pt is critcially ill. Total time spent: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2186-1-17**] 18:09 ------